US04069228
2,4-Dioxo-hexahydro-1,3,5-trimethyl-s-triazine
145 g (1 mol) of 1,3,5-trimethyl-biuret and 30 g of paraformaldehyde are heated together with 5 ml of concentrated hydrochloric acid 70° C for 5 hours. The liquid contents of the flask are then poured onto a dry metal sheet and, after solidification, the product is recrystallised from cyclohexane. This gives 145 g (98%) of 2,4-dioxo-hexahydro-1,3,5-trimethyl-s-triazine of melting point 88° to 90° C.

reactant | 1,3,5-trimethyl-biuret | 1 mol, 145 g | CNC(=O)N(C(=O)NC)C | C5H11N3O2
reactant | paraformaldehyde | 30 g | C=O | CH2O
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | 2,4-Dioxo-hexahydro-1,3,5-trimethyl-s-triazine | O=C1N(CN(C(N1C)=O)C)C | C6H11N3O2
